Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
cabamix / Latex, Natural Rubber / carbite(leather)
 
Attending: ___.
 
Chief Complaint:
Aortoiliac disease 
 
Major Surgical or Invasive Procedure:
___: aorto-bifemoral bypass

 
History of Present Illness:
This is a ___ man with a history of progressive 
bilateral lower extremity claudication, worse on the right than 
the left.  He underwent a CTA and a diagnostic angiogram which 
revealed severe stenosis of the distal
infrarenal aorta with near occlusion.  There was complete 
occlusion of the right common iliac artery.
 
Past Medical History:
Past Medical/Surgical History: 
- PVD
- hip pain from circulation problem/vascular blockage 
- eczema/dermatitis 
- hemachromatosis w/ weekly phlebotomy
- Basal Cell Carcinoma 
- LLE angio ___  
- mass left chest side removed ___ yr ago w/ local
 
Social History:
___
Family History:
non contributory 
 
Physical Exam:
VS: T: 99.4 BP: 164/88 HR: 88 RR: 18 O2: 99% on RA

Exam: 
AAOx3 NAD
Lungs CTAB b/l
RRR
soft, obese, no rebound/guarding
toes on b/l feet red and ttp, warm
motor and sensory intact
no ulcers or tissue loss
pulse exam:
R: p/p/p/p
L: p/p/p/p
 
Pertinent Results:
___ 02:38PM BLOOD WBC-15.4*# RBC-2.98* Hgb-10.9* Hct-33.8* 
MCV-113* MCH-36.6* MCHC-32.2 RDW-14.6 RDWSD-61.1* Plt ___
___ 02:38PM BLOOD Plt ___
___ 02:38PM BLOOD Glucose-155* UreaN-11 Creat-0.8 Na-140 
K-3.9 Cl-106 HCO3-25 AnGap-13
___ 02:38PM BLOOD Calcium-8.0* Phos-4.5 Mg-2.0

IMAGING:
___: KUB - Dilated small bowel with air in the colon and the 
rectum is consistent with ileus. 

 
Brief Hospital Course:
___ M with bilateral aortoiliac disease now s/p 
aorto-bifemoral bypass. For complete details for the procedure 
please see the OP report. The pt tolerated the procedure well 
and was transferred to the PACU and later the floor in a stable 
condition.

On POD 1: The pts incision site was examined and found to be 
healing well. The pt is still struggling with low UO so he has 
been receiving a fluid bolus. 

On POD 2. An NGT was placed and has been on suction. Pt received 
another 1000cc bolus. UOP has improved.

On POD 3: NGT was pulled. Diet was transitioned to clears which 
pt has tolerated well so far. 

On POD 4: Pt was examined and evaluate is doing well. Pt consult 
was placed.

On POD 5: Pt examined and evaluated. CVL was removed. Pt has 
been ambulating and is healing well. 

On POD 6: Abdominal incision staples removed and replaced with 
steri-strips. Pt ambulating and with no complaints. 
 
Medications on Admission:
atorvastatin 10', Hydroxychloroquine 200'', asa 325', ibuprofen 
prn, cilostazol 100''
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Hydroxychloroquine Sulfate 200 mg PO BID 
5. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain Duration: 
4 Days 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*20 
Tablet Refills:*0
6. Docusate Sodium 100 mg PO BID Duration: 30 Days 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice per day 
Disp #*60 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Aortoiliac disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
You were admitted to ___ and 
underwent a aorto-bifemoral bypass. You have now recovered from 
surgery and are ready to be discharged. Please follow the 
instructions below to continue your recovery:

WHAT TO EXPECT:
1. It is normal to feel weak and tired, this will last for ___ 
weeks 
• You should get up out of bed every day and gradually increase 
your activity each day 
• You may walk and you may go up and down stairs 
• Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have incisional and leg swelling:
• Wear loose fitting pants/clothing (this will be less 
irritating to incision) 
• Elevate your legs above the level of your heart with ___ 
pillows every ___ hours throughout the day and at night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
• You will probably lose your taste for food and lose some 
weight 
• Eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication
• Take all the medications you were taking before surgery, 
unless otherwise directed
• Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 

ACTIVITIES:
• No driving until post-op visit and you are no longer taking 
pain medications
• You should get up every day, get dressed and walk, gradually 
increasing your activity
• You may up and down stairs, go outside and/or ride in a car
• Increase your activities as you can tolerate- do not do too 
much right away!
• No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
• You may shower (let the soapy water run over incision, rinse 
and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area

CALL THE OFFICE FOR : ___
• Redness that extends away from your incision
• A sudden increase in pain that is not controlled with pain 
medication
• A sudden change in the ability to move or use your leg or the 
ability to feel your leg
• Temperature greater than 101.5F for 24 hours
• Bleeding from incision
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
 

 
Followup Instructions:
___